US07208494B2
(4R,9aR)-(7-Fluoro-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluoren-8-yl)-methanol
A mixture of 0.040 g (4R,9aR)-7-fluoro-8-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 1 mL of a 2M solution of hydrochloric acid in dioxane was kept at room temperature for 18 h. The solvents were evaporated and the residue was purified by chromatography on silica gel with dichloromethane:methanol:ammonia (25% in water ) (9:1:0.1). The product fractions were collected and evaporated to yield 0.0215 g of yellowish foam.

reactant | (4R,9aR)-7-fluoro-8-hydroxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.040 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=C(C(=CN=C3N2[C@@H](C1)C)F)CO | C17H24FN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4R,9aR)-(7-Fluoro-4-methyl-1,2,3,4,9,9a-hexahydro-2,4a,5-triaza-fluoren-8-yl)-methanol | 0.0215 g | FC1=CN=C2N3[C@@H](CNC[C@H]3CC2=C1CO)C | C12H16FN3O
